US04197310
A 9.2 g. portion of β-amino-5-chloro-2-thiopheneacrylonitrile is dissolved in 100 ml. of methanol. A 50 ml. portion of 1 N hydrochloric acid is added and the mixture is stirred at room temperature for 3 hours. The precipitate is collected giving 5-chloro-β-oxo-2-thiophenepropionitrile.

reactant | β-amino-5-chloro-2-thiopheneacrylonitrile | NC(=CC#N)C=1SC(=CC1)Cl | C7H5ClN2S
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | methanol | CO | CH4O
product | 5-chloro-β-oxo-2-thiophenepropionitrile | ClC1=CC=C(S1)C(CC#N)=O | C7H4ClNOS
